US07332483B2
3-[2-Fluoro-5-(3-fluoro-5-morpholinobenzamido)phenyl]-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one
Triethyl orthoformate (0.123 ml) was added to a stirred mixture of N-[2-fluoro-5-(3-fluoro-5-morpholinobenzamido)phenyl]-2-amino-5-(4-methylpiperazin-1-yl)benzamide (0.31 g), glacial acetic acid (0.016 ml) and ethanol (4 ml) and the resultant mixture was heated to 76° C. for 18 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and a saturated aqueous solution of sodium bicarbonate. The organic solution was washed with water and with a saturated aqueous sodium chloride solution, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.119 g); NMR Spectrum: (DMSOd6) 2.23 (s, 3H), 3.22 (m, 4H), 3.72 (m, 4H), 6.99 (d, 1H), 7.12 (d, 1H), 7.29 (s, 1H), 7.47 (m, 2H), 7.63 (s, 1H), 7.89 (m, 1H), 7.97 (m, 1H), 8.18 (s, 1H), 10.44 (s, 1H); Mass Spectrum: M+H+ 561.

reactant | Triethyl orthoformate | 0.123 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | N-[2-fluoro-5-(3-fluoro-5-morpholinobenzamido)phenyl]-2-amino-5-(4-methylpiperazin-1-yl)benzamide | 0.31 g | FC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)NC(C1=C(C=CC(=C1)N1CCN(CC1)C)N)=O | C29H32F2N6O3
reactant | acetic acid | 0.016 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-[2-Fluoro-5-(3-fluoro-5-morpholinobenzamido)phenyl]-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one | 0.119 g | FC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C | C30H30F2N6O3
